US05472962
35 mg of (6-methoxy-2-cyclopentylbenzo[b]thien-3-yl)[4-[2-(dimethylamino)ethoxy]phenyl]methanone was dissolved in 5 ml of dichloromethane, 65 mg of aluminum chloride and 0.03 ml of ethanethiol were added, and the mixture was stirred at room temperature for 2 hours. 0.3 ml of THF, 0.075 ml of 20% hydrochloric acid and 0.3 ml of water were added to the reaction mixture, a saturated aqueous sodium bicarbonate solution was added to make the mixture alkaline, and the resultant mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off, and the resultant crude product was purified by TLC (developing solvent, chloroform:methanol=19:1) to obtain 21 mg of (6-hydroxy-2-cyclopentylbenzo[b]thien-3-yl)[4-[2-(dimethylamino)ethoxy]phenyl]methanone.

reactant | (6-methoxy-2-cyclopentylbenzo[b]thien-3-yl)[4-[2-(dimethylamino)ethoxy]phenyl]methanone | 35 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN(C)C)C2CCCC2)C1 | C25H29NO3S
reactant | aluminum chloride | 65 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethanethiol | 0.03 ml | C(C)S | C2H6S
reactant | hydrochloric acid | 0.075 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | water | 0.3 ml | O | H2O
solvent | THF | 0.3 ml | C1CCOC1 | C4H8O
product | (6-hydroxy-2-cyclopentylbenzo[b]thien-3-yl)[4-[2-(dimethylamino)ethoxy]phenyl]methanone | 21 mg | OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN(C)C)C2CCCC2)C1 | C24H27NO3S
